US08859592B2
To a solution of 2-amino-4-bromo-3-hydroxy-benzoic acid methyl ester (2.46 g) in toluene (250 ml) was added sequentially triethylamine (1.53 ml), pyridinium p-toluenesulfonate (“PPTS”) (0.75 g) and acetyl chloride (0.78 ml). The reaction mixture was heated at reflux for 16 hours. The reaction mixture was cooled to ambient temperature and diluted with aqueous hydrochloric acid (1M) (100 ml) and ethyl acetate (200 ml). The phases were separated and the organic extract was washed with aqueous hydrochloric acid (1M) (150 ml) and brine (150 ml) and then dried over sodium sulfate. The solids were removed by filtration and the filtrate was concentrated to give 7-bromo-2 methyl-benzo[d]oxazole-4-carboxylic acid methyl ester (2.94 g). 1H-NMR (400 MHz, CDCl3): 7.87 (d, 1H), 7.52 (d, 1H), 4.04 (s, 3H), 2.77 (s, 3H) ppm.

reactant | 2-amino-4-bromo-3-hydroxy-benzoic acid methyl ester | 2.46 g | COC(C1=C(C(=C(C=C1)Br)O)N)=O | C8H8BrNO3
reactant | triethylamine | 1.53 ml | C(C)N(CC)CC | C6H15N
reactant | pyridinium p-toluenesulfonate | 0.75 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | acetyl chloride | 0.78 ml | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 7-bromo-2 methyl-benzo[d]oxazole-4-carboxylic acid methyl ester | 2.94 g | COC(=O)C=1C=CC(=C2C1N=C(O2)C)Br | C10H8BrNO3
